US04081267
In a 500 ml four-necked flask was charged a solution of 7.4 g of the above prepared 3-(2-pyridyl)-6-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-5-one in 200 ml of acetone, and a solution of 3.2 g of potassium permanganate in 200 ml of acetone was added dropwise thereto at 10° to 15° C while stirring. The resulting mixture was stirred for 2 hours, and then the produced manganese dioxide was removed by filtration. The acetone was removed under reduced pressure to obtain 6.5 g of 3-(2-pyridyl)-6-methyl-4,5-dihydro-1,2,4-triazin-5-one as white crystals. M.P. 299°-300° C. Anal. Calcd. for C9H8N4O: C, 57.45%; H, 4.26%; N, 29.79%. Found: C, 57.31%; H, 4.22%; N, 29.95%.

reactant | 3-(2-pyridyl)-6-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-5-one | N1=C(C=CC=C1)C1=NNC(C(N1)=O)C | C9H10N4O
reactant | potassium permanganate | 3.2 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-(2-pyridyl)-6-methyl-4,5-dihydro-1,2,4-triazin-5-one | 6.5 g | N1=C(C=CC=C1)C1=NN=C(C(N1)=O)C | C9H8N4O
